US06995157B2
b) 5,6-bis-(4-methoxyphenyl)-1,2,4-triazin-3-one
A slurry of 9.6 g of 5,6-bis-(4-methoxyphenyl)-1,2,4-triazin-3-thione (29.5 mmol) in 100 mL of water was treated with 2.64 g of 50% aqueous sodium hydroxide (33 mmol). Most of the solids dissolved. The reaction mixture was cooled in an ice bath and 3.8 g of 30% hydrogen peroxide (33 mmol) was added slowly. An additional 4 mL of hydrogen peroxide solution was added, and the reaction mixture was stirred overnight at room temperature. The solids were filtered, washed with water, and dried under vacuum to give 8.6 g of product, mp 238–242° C.

reactant | 5,6-bis-(4-methoxyphenyl)-1,2,4-triazin-3-thione | 29.5 mmol, 9.6 g | COC1=CC=C(C=C1)C1=NC(NN=C1C1=CC=C(C=C1)OC)=S | C17H15N3O2S
reactant | sodium hydroxide | 33 mmol, 2.64 g | [OH-].[Na+]
reactant | hydrogen peroxide | 33 mmol, 3.8 g | OO | H2O2
reactant | hydrogen peroxide | 4 mL | OO | H2O2
solvent | water | 100 mL | O | H2O
product | 5,6-bis-(4-methoxyphenyl)-1,2,4-triazin-3-one | 8.6 g | COC1=CC=C(C=C1)C1=NC(NN=C1C1=CC=C(C=C1)OC)=O | C17H15N3O3
